US05543409
2-Amino-5-[pyridazin-3(2H)-on-6-yl]indane·hydrobromide and vinyl chloroformate were treated in the same manner as in Example 49 to obtain 2-vinyloxycarbonylamino-5-[pyridazin-3(2H)-on-6-yl]indane.

reactant | 2-Amino-5-[pyridazin-3(2H)-on-6-yl]indane·hydrobromide | NC1CC2=CC=C(C=C2C1)C=1C=CC(NN1)=O.Br
reactant | vinyl chloroformate | ClC(=O)OC=C | C3H3ClO2
product | 2-vinyloxycarbonylamino-5-[pyridazin-3(2H)-on-6-yl]indane | C(=C)OC(=O)NC1CC2=CC=C(C=C2C1)C=1C=CC(NN1)=O | C16H15N3O3
